US09376441B2
(R)-4-((R)-1-(5-(benzyloxy)benzo[d]thiazol-7-yloxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one (500 mg, 1.0 mmol) was dissolved in DCM (10 mL) under Ar and the resulting solution was cooled to −78° C. A 1.0 M solution of BBr3 (10 mL, 10 mmol) was added dropwise over 5 min, and the resulting mixture was warmed to r.t. After 45 additional min, the reaction mixture was cooled in an ice water bath and MeOH (4 mL. 99 mmol) was added over 2 min. Et3N (5.6 mL, 40 mmol) was added followed by Et2NH (0.25 mL, 2.4 mmol) and the resulting mixture was warmed to r.t. After stirring an additional 30 min, the reaction mixture was concentrated, dissolved in MeOH (20 mL), and concentrated again. The resulting concentrate was partitioned between EtOAc (100 mL) and water (75 mL), and the phases were separated. The aqueous phase was extracted with EtOAc (30 mL), and the combined organic phase was washed with a mixture of 0.2 M aqueous HCl (30 mL) and brine (30 mL) followed by a mixture of saturated aqueous NaHCO3 (20 mL) and brine (20 mL). The organic phase was dried over Na2SO4, filtered, and concentrated to afford (R)-4-((R)-1-(5-hydroxybenzo[d]thiazol-7-yloxy)ethyl)-1-((R)-1-(4-hydroxyphenyl)ethyl)pyrrolidin-2-one that was used without further purification. LCMS-ESI+ (m/z): [M+H]+ calcd for C21H23N2O4S: 399.1; found 399.2.

reactant | (R)-4-((R)-1-(5-(benzyloxy)benzo[d]thiazol-7-yloxy)ethyl)-1-((R)-1-(4-methoxyphenyl)ethyl)pyrrolidin-2-one | 1.0 mmol, 500 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(N=CS2)C1)O[C@H](C)[C@@H]1CC(N(C1)[C@H](C)C1=CC=C(C=C1)OC)=O | C29H30N2O4S
reactant | BBr3 | 10 mmol, 10 mL | B(Br)(Br)Br | BBr3
reactant | MeOH | 99 mmol, 4 mL | CO | CH4O
reactant | Et3N | 40 mmol, 5.6 mL | CCN(CC)CC | C6H15N
reactant | Et2NH | 2.4 mmol, 0.25 mL | N(CC)CC | C4H11N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-((R)-1-(5-hydroxybenzo[d]thiazol-7-yloxy)ethyl)-1-((R)-1-(4-hydroxyphenyl)ethyl)pyrrolidin-2-one | OC=1C=C(C2=C(N=CS2)C1)O[C@H](C)[C@@H]1CC(N(C1)[C@H](C)C1=CC=C(C=C1)O)=O | C21H22N2O4S
